US05677317
EXAMPLE 17: (S)-N-[4-[4-Carboxy-4-(2-oxopiperidino)piperidino]-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide.
A solution of (S)-N-[2-(3,4-dichlorophenyl)-4-[4-methoxycarbonyl-4-(2-oxopiperidino)piperidino]butyl]-N-methylbenzamide (0.65 g) in tetrahydrofuran (15 mL) and 1.0N sodium hydroxide (15.5 mL) was heated at reflux overnight. After the tetrahydrofuran was distilled off, the resulting aqueous mixture was adjusted to a pH of 5.5-6.0 and extracted several times with dichloromethane. The organic extracts were dried and evaporated. The crude product was suspended in ether and filtered to give the title compound as a white solid (0.25 g); MS: m/z=560(M+1).

reactant | (S)-N-[2-(3,4-dichlorophenyl)-4-[4-methoxycarbonyl-4-(2-oxopiperidino)piperidino]butyl]-N-methylbenzamide | 0.65 g | ClC=1C=C(C=CC1Cl)[C@@H](CN(C(C1=CC=CC=C1)=O)C)CCN1CCC(CC1)(N1C(CCCC1)=O)C(=O)OC | C30H37Cl2N3O4
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1.0N, 15.5 mL | [OH-].[Na+]
product | (S)-N-[4-[4-Carboxy-4-(2-oxopiperidino)piperidino]-2-(3,4-dichlorophenyl)butyl]-N-methylbenzamide | 0.25 g | C(=O)(O)C1(CCN(CC1)CC[C@H](CN(C(C1=CC=CC=C1)=O)C)C1=CC(=C(C=C1)Cl)Cl)N1C(CCCC1)=O | C29H35Cl2N3O4
